US03995045
B. 2'-[[[3-(4-phenyl-1-piperidinyl)propyl]amino]-carbonyl][1,1'-biphenyl]-2-carboxylic acid
4-Phenyl-1-piperidinepropanamine, hydrochloride (prepared in part A) (16.33 g, 53.5 mM) and diphenic anhydride (12.0 g, 53.5 mM) are refluxed in toluene for 2 hours. The mixture is allowed to stand overnight at room temperature during which time product crystallizes out. The crystals are filtered off, washed with toluene, recrystallized from ethanol, and dried at 80° to give the title compound.

reactant | 4-Phenyl-1-piperidinepropanamine, hydrochloride | Cl.C1(=CC=CC=C1)C1CCN(CC1)CCCN
reactant | diphenic anhydride | 53.5 mM, 12.0 g | C=12C(C(=O)OC(C=3C2=CC=CC3)=O)=CC=CC1 | C14H8O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2'-[[[3-(4-phenyl-1-piperidinyl)propyl]amino]-carbonyl][1,1'-biphenyl]-2-carboxylic acid | C1(=CC=CC=C1)C1CCN(CC1)CCCNC(=O)C1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O | C28H30N2O3
